US06756392B2
Ethyl-2-chloro-5-fluoro-nicotinoate (50.4 g, 0.247 mol) (see reference J. Med. Chem., 1993, 36(18), 2676-88) was dissolved in tetrahydrofuran (350 ml) and a 2 M aqueous solution of lithium hydroxide (247 ml, 0.495 mol) added. The reaction mixture was stirred at room temperature for 3 days. The pH of the solution was reduced to pH equal to 1 by addition of 6N hydrochloric acid and then extracted with dichloromethane. The combined extracts were dried over anhydrous magnesium sulphate and the solvent removed in vacuo to give a solid which was triturated with diethyl ether and then dried in vacuo to give 2-chloro-5-fluoro nicotinic acid (40.56 g) as a white solid.

reactant | Ethyl-2-chloro-5-fluoro-nicotinoate | 0.247 mol, 50.4 g | C(C)OC(C1=C(N=CC(=C1)F)Cl)=O | C8H7ClFNO2
reactant | lithium hydroxide | 0.495 mol, 247 ml | [OH-].[Li+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
product | 2-chloro-5-fluoro nicotinic acid | 40.56 g | ClC1=C(C(=O)O)C=C(C=N1)F | C6H3ClFNO2
